US05650533
A mixture of 3-cyclopropyl-1-[2-bromo-3-(2-methoxyethoxy)-4-methylsulphonylphenyl]propan-1,3-dione (7.5 g) and triethylorthoformate (10.3 g) in acetic anhydride was stirred and heated at reflux for 3 hours. It was evaporated to dryness and the residue was treated with xylene and re-evaporated to give crude 3-cyclopropyl-1-[2-bromo-3-(2-methoxyethoxy)-4-methylsulphonylphenyl]-2-ethoxymethylenepropan-1,3-dione (8.5 g) as a dark brown oil which was not purified further.

reactant | 3-cyclopropyl-1-[2-bromo-3-(2-methoxyethoxy)-4-methylsulphonylphenyl]propan-1,3-dione | 7.5 g | C1(CC1)C(CC(=O)C1=C(C(=C(C=C1)S(=O)(=O)C)OCCOC)Br)=O | C16H19BrO6S
reactant | triethylorthoformate | 10.3 g | C(C)OC(OCC)OCC | C7H16O3
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-cyclopropyl-1-[2-bromo-3-(2-methoxyethoxy)-4-methylsulphonylphenyl]-2-ethoxymethylenepropan-1,3-dione | 8.5 g | C1(CC1)C(C(C(=O)C1=C(C(=C(C=C1)S(=O)(=O)C)OCCOC)Br)=COCC)=O | C19H23BrO7S
